US09359344B2
2-methyl-2H-tetrazole-5-amine (7.7 g, 78 mmol), 2-chloro-5-bromopyridine (10 g, 52 mmol), and potassium tert-butylate (11.6 g, 104 mmol) were dissolved in 100 mL THF, heated under reflux and reacted for 12 h. Water was added, extracted with ethyl acetate, and the organic phase was dried, concentrated, and the solid was separated by a silica gel column (dichloromethane:methanol=100:1) to obtain 5-bromo-N-(2-methyl-2H-tetrazol-5-yl)pyridine-2-amine 200 mg, at a yield of 1.5%.

reactant | 2-methyl-2H-tetrazole-5-amine | 78 mmol, 7.7 g | CN1N=C(N=N1)N | C2H5N5
reactant | 2-chloro-5-bromopyridine | 52 mmol, 10 g | ClC1=NC=C(C=C1)Br | C5H3BrClN
reactant | potassium tert-butylate | 104 mmol, 11.6 g | CC(C)(C)[O-].[K+]
reactant | Water | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-bromo-N-(2-methyl-2H-tetrazol-5-yl)pyridine-2-amine | 200 mg, yield of 1.5% | BrC=1C=CC(=NC1)NC=1N=NN(N1)C | C7H7BrN6
